US08124780B2
(9b) 5-(benzyloxy)-2,2-dimethyl-1,3-dioxane
To a N,N-dimethylformamide (200 ml) solution of the 2,2-dimethyl-1,3-dioxan-5-ol (7.1 g, 0.054 mol) obtained in the step (9a), sodium hydride, in oil (2.81 g, 0.064 mol as the content was regarded as 55%) was added at 0° C. and stirred. After benzyl bromide (12.9 ml, 0.108 mol) and tetrabutylammonium iodide (220 mg, 0.001 mol) were added at the same temperature to the mixture, the mixture was stirred at room temperature for 1.5 hours. Water was added to the reaction mixture, which was then extracted with ethyl acetate three times. Organic layers were combined, washed five times with water and once with a saturated saline solution, dried over anhydrous sodium sulfate, and filtered. After NH silica gel was added, the resultant mixture was concentrated and purified by silica gel column chromatography (elution solvent: heptane, heptane/ethyl acetate=9/1, 4/1, ethyl acetate) to obtain the title compound (6.5 g, 54.5%) as a colorless oil.

reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | 2,2-dimethyl-1,3-dioxan-5-ol | 0.054 mol, 7.1 g | CC1(OCC(CO1)O)C | C6H12O3
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromide | 0.108 mol, 12.9 ml | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | tetrabutylammonium iodide | 0.001 mol, 220 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | O | H2O
product | 5-(benzyloxy)-2,2-dimethyl-1,3-dioxane | 6.5 g, 54.5% | C(C1=CC=CC=C1)OC1COC(OC1)(C)C | C13H18O3
